US06420566B2
10 cm3 of aqueous 1N sodium hydroxide are added to a solution of 2 g of tert-butyl 2-[(tert-butoxycarbonyl)imino]-(4RS)-4-[(tert-butoxycarbonyl)-oxy]methyl-1,3-thiazolidine-3-carboxylate in 20 cm3 of methanol, and the mixture is then stirred at a temperature in the region of 20° C. for 4 hours. The reaction mixture is concentrated under reduced pressure (1 kPa) at a temperature in the region of 50° C. The residue obtained is taken up in 30 cm3 of water, filtered and washed with ethyl acetate and then with water. 0.37 g of tert-butyl N-[4-(R,S) (hydroxymethyl)-4,5-dihydrothiazol-2-yl]carbamate is obtained in the form of a white solid [mass spectrum: DCI m/z=233, MH+ m/z=177 (M-C4H7)+].

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | tert-butyl 2-[(tert-butoxycarbonyl)imino]-(4RS)-4-[(tert-butoxycarbonyl)-oxy]methyl-1,3-thiazolidine-3-carboxylate | 2 g | C(C)(C)(C)OC(=O)N=C1SCC(N1C(=O)OC(C)(C)C)COC(=O)OC(C)(C)C | C19H32N2O7S
solvent | methanol | 20 cm3 | CO | CH4O
solvent | water | 30 cm3 | O | H2O
product | tert-butyl N-[4-(R,S) (hydroxymethyl)-4,5-dihydrothiazol-2-yl]carbamate | 0.37 g | OCC1N=C(SC1)NC(OC(C)(C)C)=O | C9H16N2O3S
